* G:\My Drive\2020-2021\Spring\EE 308\Labs\Lab 1\ltspice\amplifier.asc
RV1_top sig_in N003 0.1k
RV1_bot N003 0 9.9k
Q1 +12v N003 N005 0 2N3904
R2 N005 -12v 620
Q2 N001 N004 N005 0 2N3904
R5 +12v N001 260
Q3 N006 N002 N001 0 2N3906
D1 N006 N009 1N4148
D2 N009 N012 1N4148
R7 +12v N002 5.1k
C1 +12v N002 0.1µ
Q4 N012 N013 N014 0 2N3904
R6 N014 -12v 270
R9 N013 -12v 3.3k
C2 N013 -12v 0.1µ
Q6 -12v N012 N011 0 2N2907
R11 N008 N011 5.1
R10 N007 N008 5.1
Q5 +12v N006 N007 0 2N2222
R12 out N008 47
R13 out 0 50
R3 N008 N004 12k
R4 N004 0 620
R14 N004 N010 1Meg
RV2_top +12v N010 5k
RV2_bot N010 -12v 5k
R8 N002 N013 18k
V1 NC_01 0 SINE(0 0.3 1k) AC 1
V2 +12v 0 12
V3 0 -12v 12
V4 sig_in 0 PULSE(-0.15 0.15 1u 1n 1n 10u 15u 1) AC 1
C3 N008 N004 1p
.model D D
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2u 0 1n
;.ac dec 1000 20k 100Meg
;.four 1k 5 V(out)
.backanno
.end
