* G:\My Drive\2020-2021\Spring\EE 308\Labs\Lab 1\ltspice\amplifier_loopgain.asc
RV1_top 0 N003 0.1k
RV1_bot N003 0 9.9k
Q1 +12v N003 N005 0 2N3904
R2 N005 -12v 620
Q2 N001 N004 N005 0 2N3904
R5 +12v N001 270
Q3 N006 N002 N001 0 2N3906
D1 N006 N009 1N4148
D2 N009 N011 1N4148
R7 +12v N002 5.1k
C1 +12v N002 0.1µ
Q4 N011 N012 N013 0 2N3904
R6 N013 -12v 270
R9 N012 -12v 3.3k
C2 N012 -12v 0.1µ
Q6 -12v N011 N010 0 2N2907
R11 sig_out N010 5.1
R10 N008 sig_out 5.1
Q5 +12v N006 N008 0 2N2222
R12 out sig_out 47
R13 out 0 50
R3 sig_in N004 12k
R4 N004 0 620
R14 N004 N007 1Meg
RV2_top +12v N007 10k
RV2_bot N007 -12v 10k
R8 N002 N012 18k
V1 0 0 SINE(0 0.3 1Meg) AC 1
V2 +12v 0 12
V3 0 -12v 12
V4 sig_in 0 -0.2 AC 1
C3 sig_in N004 1p
.model D D
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.tran 0 10u 0 10n
.ac dec 1000 10 100Meg
.op
.backanno
.end
