* G:\My Drive\2020-2021\Spring\EE 308\Labs\ee308\lab4\ltspice\full_gen.asc
XU1 N024 N022 +12v -12v N017 LT1001
Q1 N008 N017 N022 0 2N3904
Q2 i_sink N017 N026 0 2N3904
R3 N022 -12v 1k
R4 N026 -12v 1k
Q3 N008 N008 N006 0 2N3906
Q4 i_source N008 N007 0 2N3906
R5 +12v N006 1k
R6 +12v N007 1k
V1 +12v 0 12
V2 0 -12v 12
D1 i_source square_in_buf 1N5711
D2 i_source tcap 1N5711
D3 square_in_buf i_sink 1N5711
D4 tcap i_sink 1N5711
C1 tcap 0 1.36n IC=0
V3 square_in 0 PULSE(-1 1 0 1n 1n {(1/f)*0.75} {1/f} 2)
J1 N004 N005 triangle_out J310
R10 N018 -12v 300
R7 +12v N004 1k
R11 triangle_out 0 1k
J2 triangle_out -12v N018 J310
V4 N024 0 -6
XU2 0 N034 +12v -12v N031 LT1001
R1 N031 N034 9k
R2 N034 N035 1k
C2 N031 N030 1µ IC=0
Q6 N003 triangle_out N013 0 2N3904
Q7 N002 triangle_comp N013 0 2N3904
Q8 N013 N021 N025 0 2N3904
R12 N025 -12v 2k
D5 N003 N002 1N4148
D6 N002 N003 1N4148
R15 +12v N003 4k
R16 +12v N002 4k
V7 N021 0 -3.4
Q9 square_fb N002 N001 0 2N3906
Q10 square_out N003 N001 0 2N3906
R17 +12v N001 910
R18 square_out -12v 2.7k
D7 square_fb N015 1N4148
D8 N015 N019 1N4148
D9 N019 0 1N4148
D10 0 N020 1N4148
D11 N020 N016 1N4148
D12 N016 square_fb 1N4148
R19 square_fb -12v 2.7k
D13 N011 triangle_comp 1N4148
D14 N011 square_fb 1N4148
D15 triangle_comp N014 1N4148
D16 square_fb N014 1N4148
R20 N010 N011 13k
R21 +12v N010 1.1k
R22 N014 N023 13k
R23 N023 -12v 1.1k
R24 triangle_comp 0 499
D18 0 square_out 1N5711
D19 square_out 0 1N5711
XU3 N030 N035 +12v -12v N035 LT1001
D21 N012 triangle_out 1N914
D22 triangle_out N012 1N914
D23 triangle_out triangle_out 1N914
Q12 +12v N009 square_in_buf 0 2N3904
R13 square_in_buf -12v 1k
R8 N009 square_fb 300
R9 N005 tcap 100
R14 N036 triangle_out 1.3k
R25 0 N036 1k
Q5 N029 N036 N037 0 2N3904
R26 N038 N037 10
R27 N039 N038 10
Q11 N032 0 N039 0 2N3904
R28 +12v N029 1k
R29 +12v N032 1k
Q13 N038 N041 N040 0 2N3904
R30 N040 -12v 500
XU4 N042 N040 +12v -12v N041 LT1001
V5 N042 0 -9
R31 N033 N032 12Meg
R32 0 N033 1Meg
R33 N027 N029 12Meg
R34 N028 N027 1Meg
XU6 N033 N027 +12v -12v N028 LF356/NS
.model D D
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 {5/f} {0/f} {1/f/100}
.param f=2Meg
.MODEL 1N5711 D (IS=19.7n N=1.51 BV=93.3 IBV=50n RS=6.27 CJO=1.8p VJ=.75 M=.333 XTI=2 EG=.69 TT=10.8p type=Schottky)
.include LF356.MOD
.lib LTC.lib
.backanno
.end
