* G:\My Drive\2020-2021\Spring\EE 308\Labs\ee308\lab2\ltspice\hysteretic_switch.asc
Q1 N003 N010 N013 0 2N3904
Q2 N002 N011 N013 0 2N3904
Q3 N013 N019 N021 0 2N3904
R1 N021 -12v 2k
R2 N010 0 1k
R3 N010 N008 1k
C1 N009 N008 56p
D1 N003 N002 1N4148
D2 N002 N003 1N4148
R4 +12v N003 4k
R5 +12v N002 4k
V1 +12v 0 12
V2 0 -12v 12
V3 N019 0 -3.4
V4 N008 0 PULSE(-1 1 0 500u 500u 1n 1m)
Q4 N012 N002 N001 0 2N3906
Q5 square_out N003 N001 0 2N3906
R6 +12v N001 910
R7 square_out -12v 2.7k
D3 N012 N015 1N4148
D4 N015 N017 1N4148
D5 N017 0 1N4148
D6 0 N018 1N4148
D7 N018 N016 1N4148
D8 N016 N012 1N4148
R8 N012 -12v 2.7k
D9 N007 N011 1N4148
D10 N007 N012 1N4148
D11 N011 N014 1N4148
D12 N012 N014 1N4148
R9 N004 N007 13k
R10 +12v N004 1.1k
R11 N014 N020 13k
R12 N020 -12v 1.1k
R13 N011 0 499
D13 N005 square_out 1N4148
D14 0 N005 1N4148
D15 square_out N006 1N4148
D16 N006 0 1N4148
.model D D
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 5m 0 1u
.backanno
.end
