* G:\My Drive\2020-2021\Spring\EE 308\Labs\ee308\lab3\ltspice\jfet_buffer.asc
J1 N001 N002 N003 J310
R1 N004 -12v 300
R2 +12v N001 1k
J2 N003 -12v N004 J310
V1 N002 0 AC 1
.model NJF NJF
.model PJF PJF
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.jft
.ac dec 1000 10 10Meg
.backanno
.end
