* G:\My Drive\2020-2021\Spring\EE 308\Labs\ee308\lab3\ltspice\triangle_wave_gen.asc
XU1 N026 N024 +12v -12v N019 LT1001
Q1 N007 N019 N024 0 2N3904
Q2 i_sink N019 N028 0 2N3904
R3 N024 -12v 1k
R4 N028 -12v 1k
Q3 N007 N007 N005 0 2N3906
Q4 i_source N007 N006 0 2N3906
R5 +12v N005 1k
R6 +12v N006 1k
V1 +12v 0 12
V2 0 -12v 12
D1 i_source square_in_buf 1N5711
D2 i_source tcap 1N5711
D3 square_in_buf i_sink 1N5711
D4 tcap i_sink 1N5711
C1 tcap 0 136n IC=0
V3 square_in 0 PULSE(-1 1 0 1n 1n {(1/f)*0.75} {1/f} 2)
J1 N004 tcap triangle_out J310
R10 N020 -12v 300
R7 +12v N004 1k
R11 triangle_out 0 1k
J2 triangle_out -12v N020 J310
V4 N026 0 -9
XU2 0 N031 +12v -12v N030 LT1001
R1 N030 N031 9k
R2 N031 N032 1k
C2 N030 N029 1µ IC=0
Q6 N003 triangle_out N015 0 2N3904
Q7 N002 N014 N015 0 2N3904
Q8 N015 N023 N027 0 2N3904
R12 N027 -12v 2k
D5 N003 N002 1N4148
D6 N002 N003 1N4148
R15 +12v N003 4k
R16 +12v N002 4k
V7 N023 0 -3.4
Q9 square_fb N002 N001 0 2N3906
Q10 square_out N003 N001 0 2N3906
R17 +12v N001 910
R18 square_out -12v 2.7k
D7 square_fb N017 1N4148
D8 N017 N021 1N4148
D9 N021 0 1N4148
D10 0 N022 1N4148
D11 N022 N018 1N4148
D12 N018 square_fb 1N4148
R19 square_fb -12v 2.7k
D13 N012 N014 1N4148
D14 N012 square_fb 1N4148
D15 N014 N016 1N4148
D16 square_fb N016 1N4148
R20 N009 N012 13k
R21 +12v N009 1.1k
R22 N016 N025 13k
R23 N025 -12v 1.1k
R24 N014 0 499
D17 N010 square_out MBRS1100
D18 0 N010 1N4148
D19 square_out N011 1N4148
D20 N011 0 MBRS1100
XU3 N029 N032 +12v -12v N032 LT1001
D21 N013 triangle_out 1N914
D22 triangle_out N013 1N914
D23 triangle_out triangle_out 1N914
Q12 +12v N008 square_in_buf 0 2N3904
R13 square_in_buf -12v 1k
R8 N008 square_fb 300
.model D D
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 {5/f} {0/f} {1/f/1000}
.param f=2.2k
.MODEL 1N5711 D (IS=19.7n N=1.51 BV=93.3 IBV=50n RS=6.27 CJO=1.8p VJ=.75 M=.333 XTI=2 EG=.69 TT=10.8p type=Schottky)
.lib LTC.lib
.backanno
.end
