* G:\My Drive\2020-2021\Spring\EE 308\Labs\ee308\lab3\ltspice\triangle_wave_gen_cmi.asc
XU1 N031 N029 +12v -12v N024 LT1001
Q1 N009 N024 N029 0 2N3904
Q2 i_sink N024 N033 0 2N3904
R3 N029 -12v 1k
R4 N033 -12v 1k
Q3 N009 N009 N007 0 2N3906
Q4 i_source N009 N008 0 2N3906
R5 +12v N007 1k
R6 +12v N008 1k
V1 +12v 0 12
V2 0 -12v 12
D1 i_source N010 1N5711
D2 i_source tcap 1N5711
D3 N010 i_sink 1N5711
D4 tcap i_sink 1N5711
C1 tcap 0 1.36µ IC=0
V3 square_in 0 PULSE(-1 1 0 1n 1n {(1/f)*0.75} {1/f} 2)
J1 N006 tcap N011 J310
R10 N025 -12v 1k
R7 +12v N006 1k
R11 triangle_out 0 1k
J2 triangle_out -12v N025 J310
Q5 N004 N005 N010 0 2N3904
R9 +12v N004 1k
V4 N031 0 -9
XU2 0 N035 +12v -12v N034 LT1001
R1 N034 N035 9k
R2 N035 N036 1k
C2 N034 0 1µ IC=0
Q6 N003 triangle_out N020 0 2N3904
Q7 N002 triangle_comp N020 0 2N3904
Q8 N020 N028 N032 0 2N3904
R12 N032 -12v 2k
D5 N003 N002 1N4148
D6 N002 N003 1N4148
R15 +12v N003 4k
R16 +12v N002 4k
V7 N028 0 -3.4
Q9 square_fb N002 N001 0 2N3906
Q10 square_out N003 N001 0 2N3906
R17 +12v N001 910
R18 square_out -12v 2.7k
D7 square_fb N022 1N4148
D8 N022 N026 1N4148
D9 N026 0 1N4148
D10 0 N027 1N4148
D11 N027 N023 1N4148
D12 N023 square_fb 1N4148
R19 square_fb -12v 2.7k
D13 N017 triangle_comp 1N4148
D14 N017 square_fb 1N4148
D15 triangle_comp N021 1N4148
D16 square_fb N021 1N4148
R20 N012 N017 13k
R21 +12v N012 1.1k
R22 N021 N030 13k
R23 N030 -12v 1.1k
R24 triangle_comp 0 499
D17 N015 square_out MBRS1100
D18 0 N015 1N4148
D19 square_out N016 1N4148
D20 N016 0 MBRS1100
XU3 0 N036 +12v -12v N036 LT1001
Q11 N018 N014 N010 0 2N3906
R8 N018 -12v 1k
D21 N019 triangle_out 1N914
D22 N013 N019 1N914
D23 N011 N013 1N914
I1 NC_01 0 PULSE(0 10m {1/f} 1n 1n {1/f*0.5} {1/f} 1)
D24 N005 square_fb 1N5711
D25 square_fb N014 1N5711
R14 +12v N005 1k
R25 N014 -12v 1k
.model D D
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\John McNelly\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 {5/f} {0/f} {1/f/1000}
.param f=200
.MODEL 1N5711 D (IS=19.7n N=1.51 BV=93.3 IBV=50n RS=6.27 CJO=1.8p VJ=.75 M=.333 XTI=2 EG=.69 TT=10.8p type=Schottky)
.lib LTC.lib
.backanno
.end
